US05143923
N-(1-Methylethyl)-N-(2-hydroxyethyl)-1,2-benzisoxazole-3-carboxamide
A mixture of ethyl-1,2-benzisoxazole-3-carboxylate (10.0 g), 2-(1-methylethylamino)ethanol (16.1 g) and toluene (80 ml) was heated to 140° C. in a bomb for 4 hrs. The solution was diluted with ether (50 ml), washed with 5% sodium bicarbonate solution, water, brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was chromatographed on silica gel, eluting with 60% ethyl acetate in hexanes to give 10.6 g (81.4%) of product. Recrystallization from dichloromethane/hexanes afforded the analytical sample, mp 92°-94° C.

reactant | ethyl-1,2-benzisoxazole-3-carboxylate | 10.0 g | C(C)OC(=O)C1=NOC2=C1C=CC=C2 | C10H9NO3
reactant | 2-(1-methylethylamino)ethanol | 16.1 g | CC(C)NCCO | C5H13NO
reactant | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | 50 ml | CCOCC | C4H10O
product | N-(1-Methylethyl)-N-(2-hydroxyethyl)-1,2-benzisoxazole-3-carboxamide | 10.6 g, 81.4% | CC(C)N(C(=O)C1=NOC2=C1C=CC=C2)CCO | C13H16N2O3
